US07923450B2
c) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[8-(3-methoxy-phenyl)-8-propyl-5,6,7,8-tetrahydro-quinazolin-2-yl]-amine
The title compound was prepared from 6-[1-dimethylamino-methylidene]-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone (101 mg, 0.33 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (124 mg, 0.33 mmol) using in analogous manner the procedure described in example 45b). Obtained as white solid (24 mg, 15%). MS ISP (m/e): 484.5 [(M+H)+]. mp 166-168° C.

reactant | 6-[1-dimethylamino-methylidene]-2-(3-methoxy-phenyl)-2-propyl-cyclohexanone | 0.33 mmol, 101 mg | CN(C=C1CCCC(C1=O)(CCC)C1=CC(=CC=C1)OC)C | C19H27NO2
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.33 mmol, 124 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[8-(3-methoxy-phenyl)-8-propyl-5,6,7,8-tetrahydro-quinazolin-2-yl]-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)(CCC)C1=CC(=CC=C1)OC | C29H33N5O2
